US05190852
To 100 g of 2-palmitoylamino-1,4-benzoquinone were added 500 ml of ethyl acetate was stirring. The system was then allowed to undergo reaction at room temperature with hydrogen chloride gas blown thereinto for 2 hours. After completion of the reaction, the reaction system was washed with 1,000 ml of iced water. 50 ml of concentrated nitric acid was then added to the system which was then allowed to undergo reaction at room temperature for 30 minutes. After completion of the reaction, the reaction system was washed with 500 ml of water and then with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine. To the resulting ethyl acetate solution was added 1,500 ml of acetonitrile. The reaction system was then cooled for crystallization. The resulting crystal was filtered off, and then dried to obtain 70 g of 2-palmitoylamino-5-chloro-1,4-benzoquinone. (Yield: 64%)

reactant | 2-palmitoylamino-1,4-benzoquinone | 100 g | C(CCCCCCCCCCCCCCC)(=O)NC=1C(C=CC(C1)=O)=O | C22H35NO3
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-palmitoylamino-5-chloro-1,4-benzoquinone | 70 g, Yield: 64% | C(CCCCCCCCCCCCCCC)(=O)NC=1C(C=C(C(C1)=O)Cl)=O | C22H34ClNO3
